US04812450
To a suspension of magnesium turnings (1.0 g, 0.04 mole) in 25 ml tetrahydrofuran (THF) and 10 ml ether, was added a few drops of a solution of 2-bromo-1-(2-fluorobenzyl) pyrrole (10.0 g, 0.04 mole) in 30 ml THF. The reaction was initiated with a few drops of dibromoethane and heat, and reflux was maintained by the addition of the bromo compound after stirring at reflux for 30 minutes, the mixture was cooled with an ice-bath; then a solution of 1-(4-chlorophenethyl)-4-piperidone (5.0 g, 0.021 mole) was added. After stirring at ambient temperature for one hour, the mixture was poured into a solution of NH4Cl, then extracted with ether. The ether solution was washed with water, then dried over anhydrous MgSO4. After evaporation of the solvent, the resultant oil, 12 g, was purified by high pressure liquid chromatography (HPLC), using ethyl acetate as the eluent to give 4.5 g of 1-(4-chlorophenethyl)-4-[1-(2-fluorobenzyl)pyrrol-2-yl]-4-piperidinol, m.p. 108°-9° C.

reactant | magnesium | 0.04 mole, 1.0 g | [Mg] | Mg
reactant | 2-bromo-1-(2-fluorobenzyl) pyrrole | 0.04 mole, 10.0 g | BrC=1N(C=CC1)CC1=C(C=CC=C1)F | C11H9BrFN
reactant | 1-(4-chlorophenethyl)-4-piperidone | 0.021 mole, 5.0 g | ClC1=CC=C(CCN2CCC(CC2)=O)C=C1 | C13H16ClNO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | THF | 30 ml | O1CCCC1 | C4H8O
catalyst | dibromoethane | a few drops | BrC(C)Br | C2H4Br2
product | 1-(4-chlorophenethyl)-4-[1-(2-fluorobenzyl)pyrrol-2-yl]-4-piperidinol | 4.5 g | ClC1=CC=C(CCN2CCC(CC2)(O)C=2N(C=CC2)CC2=C(C=CC=C2)F)C=C1 | C24H26ClFN2O
